US08067408B2
Diethyl (1-chloropropylidene)propanedioate
To diethyl propanoylpropanedioate (5.93 g, 27.4 mmol) was added phosphorus oxychloride (38 mL) and tributylamine (6.5 mL, 27.4 mmol) and the mixture was heated to 115° C. for 6 h then stirred at ambient temperature for 16 h. The mixture was concentrated to dryness and the residue added cautiously to aqueous hydrochloric acid (1M, 80 mL) and extracted twice with diethyl ether. The combined organic layers were washed with aqueous hydrochloric acid (1M), water, aqueous sodium hydroxide (1M) then brine, dried and concentrated to dryness to afford 6.81 g of a brown oil. The product was purified by flash chromatography on silica (250 mL) eluting with ethyl acetate/cyclohexane @ 1:10 to afford 3.21 g of the title compound. LC-MS m/z 235, 237 (M+H)+, 3.30 min (ret time).

reactant | diethyl propanoylpropanedioate | 27.4 mmol, 5.93 g | C(CC)(=O)C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | phosphorus oxychloride | 38 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tributylamine | 27.4 mmol, 6.5 mL | C(CCC)N(CCCC)CCCC | C12H27N
product | Diethyl (1-chloropropylidene)propanedioate | 6.81 g | ClC(CC)=C(C(=O)OCC)C(=O)OCC | C10H15ClO4
